US07932256B2
Oxalyl chloride (54.5 mL, 624 mmol) was added dropwise to a cold (<8° C.) solution of (S)-2-(1-cyclopropyl-2-methoxyethylamino)acetonitrile hydrochloride (23.6 g, 124 mmol) in 1,4 dioxane (300 mL) and methylene chloride (200 mL). The reaction mixture was then heated at 53° C. for 19 h. The reaction mixture was cooled to room temperature and concentrated to a semi-solid then co-evaporated three times with CH2Cl2 (50 mL). The resulting brown solid was purified by column chromatography on silica gel (0→10%→20% ethyl acetate in hexanes) to afford (S)-3,5-dichloro-1-(1-cyclopropyl-2-methoxyethyl)pyrazin-2(1H)-one (22.4 g, 69% yield) as a white solid: Mp 109.8-110.8° C.; [α]25D−88.8 (c 0.513, CHCl3); 1H NMR (400 MHz, CDCl3) δ 7.54 (s, 1H), 4.12-4.08 (m, 1H), 3.73 (dd, JAB=10.3, JAX=4.5 Hz, 1H), 3.62 (dd, JBA=10.3, JBX=3.0 Hz, 1H), 3.32 (s, 3H), 1.43-1.37 (m, 1H), 0.82-0.76 (m, 1H), 0.65-0.61 (m, 1H), 0.55-0.50 (m, 1H), 0.33-0.27 (m, 1H); LRMS (ESI) m/e 206.3 [(M+H)+, calcd for C10H13N2O2Cl2 263.0]. Anal. calcd. for C10H12N2O2Cl2; C, 45.64, H, 4.59, N, 10.64. Found: C, 45.74, H, 4.62, N, 10.61.

reactant | Oxalyl chloride | 624 mmol, 54.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-2-(1-cyclopropyl-2-methoxyethylamino)acetonitrile hydrochloride | 124 mmol, 23.6 g | Cl.C1(CC1)[C@@H](COC)NCC#N
solvent | 1,4 dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-1-(1-cyclopropyl-2-methoxyethyl)pyrazin-2(1H)-one | 22.4 g, 69% yield | ClC=1C(N(C=C(N1)Cl)[C@H](COC)C1CC1)=O | C10H12Cl2N2O2
